US04634704
To a stirred mixture of 4.3 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]thiourea, 2.1 parts of potassium carbonate and 40 parts of methanol was added dropwise a solution of 2 parts of 2-bromo-1-phenylethanone in methanol. Upon completion, stirring was continued for overnight at room temperature. The reaction mixture was filtered over Hyflo and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.5 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(4-phenyl-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 176.2° C. (compound 89).

reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]thiourea | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=S)N | C22H27FN6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-phenylethanone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | methanol | CO | CH4O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(4-phenyl-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=C(N2)C2=CC=CC=C2 | C30H31FN6S
